US07279580B2
2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol and 2-(2-fluoro-4-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane were coupled in the same way as in Example 30 to give 2-[3-(2,2′-difluoro-4′-methoxybiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol as an off-white solid (5 mg, 3%): m/z (ES+) 413 [MH+].

reactant | 2-[3-(3-Chloro-4-fluorophenyl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]-propan-2-ol | ClC=1C=C(C=CC1F)C1=CN=C2N1C=CC(=C2F)C(C)(C)O | C16H13ClF2N2O
reactant | 2-(2-fluoro-4-methoxyphenyl)-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC1=C(C=CC(=C1)OC)B1OC(C(O1)(C)C)(C)C | C13H18BFO3
product | 2-[3-(2,2′-difluoro-4′-methoxybiphenyl-5-yl)-8-fluoroimidazo[1,2-α]pyridin-7-yl]propan-2-ol | 5 mg, 3% | FC1=C(C=C(C=C1)C1=CN=C2N1C=CC(=C2F)C(C)(C)O)C2=C(C=C(C=C2)OC)F | C23H19F3N2O2
